Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
B/L Charcot reconstruction
 
Major Surgical or Invasive Procedure:
___: B/L Charcot reconstruction

 
History of Present Illness:
___ y/o F admitted s/p B/L Charcot foot recon for pain control/ 
IV antibiotics and rehab placement . The pt has chronic 
recurrent ulcerations ___ charcot foot type. Pt denies currently 
pain as well as N/V/F/SOB.  
Of note pt has had recent admission to the podiatry service for 
complications ___ to charcot foot on R with significant 
ulceration, disruption of tarsal alignment, purulent drainage w/ 
neg bone biopsy and 6 week course of IV abx.
Today's planned procedure involved B/L Charcot recon with L: 
TAL, STJ fusion, beaming medial column, lateral column fusion, 
R: TAL, Plantar exostectomy)

 
Past Medical History:
PMH: HTN, lipids, DM2, gastric bypass, murmur, severe aortic 
stenosis, bilat TKR, h/o DVT/PE on coagulation w/ warfarin  
 
Social History:
___
Family History:
FH: Daughter alive and healthy. Father died of MI at ___. Mother 
lived to ___.

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
Gen: NAD, AAOx3  
AVSS  
Card: RRR  
Pulm: no respiratory distress  
Abd: soft, nontender  
LLE: Posterior splint in place L foot, cap refill intact,DSD in 
place to R foot, no strikethrough on dressings. 

PHYSICAL EXAM AT DISCHARGE
Gen: NAD, AAOx3  
AVSS  
Card: RRR  
Pulm: no respiratory distress  
Abd: soft, nontender, nd 
___: C/D/I dressings to b/l feet. Pt able to flex and extend all 
digits and ankles b/l. Cap refill <3 seconds to all digits. 
Bi-valve cast in place to LLE

 
Pertinent Results:
___ 01:43PM BLOOD WBC-5.9 RBC-3.86* Hgb-9.7* Hct-30.8* 
MCV-80* MCH-25.1* MCHC-31.5 RDW-16.8* Plt ___
___ 05:30AM BLOOD WBC-7.9 RBC-3.55* Hgb-8.8* Hct-28.0* 
MCV-79* MCH-24.9* MCHC-31.6 RDW-17.5* Plt ___
___ 05:05AM BLOOD WBC-9.2 RBC-3.39* Hgb-8.8* Hct-26.7* 
MCV-79* MCH-26.1* MCHC-33.0 RDW-17.7* Plt ___
___ 09:28PM BLOOD WBC-7.5 RBC-3.48* Hgb-8.8* Hct-28.3* 
MCV-81* MCH-25.3* MCHC-31.2 RDW-17.3* Plt ___
___ 04:05AM BLOOD WBC-7.9 RBC-3.36* Hgb-8.6* Hct-27.3* 
MCV-81* MCH-25.6* MCHC-31.4 RDW-17.6* Plt ___
___ 06:55AM BLOOD ___ PTT-27.5 ___
___ 05:05AM BLOOD ___ PTT-30.3 ___
___ 04:05AM BLOOD ___ PTT-35.4 ___
___ 01:43PM BLOOD Glucose-151* UreaN-16 Creat-0.6 Na-144 
K-3.7 Cl-103 HCO3-27 AnGap-18
___ 05:30AM BLOOD Glucose-159* UreaN-14 Creat-0.6 Na-138 
K-3.9 Cl-100 HCO3-27 AnGap-15
___ 05:05AM BLOOD Glucose-143* UreaN-16 Creat-0.7 Na-135 
K-3.6 Cl-98 HCO3-29 AnGap-12
___ 09:28PM BLOOD Glucose-189* UreaN-17 Creat-0.8 Na-135 
K-3.7 Cl-98 HCO3-27 AnGap-14
___ 04:05AM BLOOD Glucose-133* UreaN-18 Creat-0.7 Na-136 
K-3.8 Cl-99 HCO3-29 AnGap-12
___ 01:43PM BLOOD Calcium-8.8 Phos-4.1 Mg-2.1
___ 05:30AM BLOOD Calcium-8.3* Phos-3.9 Mg-1.8
___ 05:05AM BLOOD Calcium-8.1* Phos-3.3 Mg-1.9
___ 09:28PM BLOOD Calcium-8.4 Phos-3.2 Mg-2.2
___ 04:05AM BLOOD Calcium-8.6 Phos-2.7 Mg-2.1
___ 08:50AM BLOOD pO2-246* pCO2-38 pH-7.47* calTCO2-28 Base 
XS-4 Comment-SOURCE NOT
___ 10:34AM BLOOD pO2-217* pCO2-52* pH-7.33* calTCO2-29 
Base XS-0 Comment-OR 10
___ 12:34PM BLOOD pO2-235* pCO2-43 pH-7.40 calTCO2-28 Base 
XS-1 Comment-SOURCE NOT
___ 08:50AM BLOOD Glucose-149* Lactate-3.1* Na-140 K-3.3 
Cl-100
___ 10:34AM BLOOD Glucose-161* Lactate-4.4* K-3.9
___ 12:34PM BLOOD Glucose-134* Lactate-3.5*
___ 10:51AM BLOOD Lactate-2.0

___ 06:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:50PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 06:50PM URINE RBC-8* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0
___ 06:50PM URINE CastHy-2*

___ 9:28 pm BLOOD CULTURE: P

___: b/l foot x-rays
Right foot: 
There has been prior resection versus resorption of multiple 
midfoot bones. The cuboid and 2 of the cuneiforms are not 
definitely visualized. The navicular bone appears to be 
displaced inferiorly. Surgical clips are seen along the plantar 
aspect of the foot. There is diffuse soft tissue swelling. 
Alignment appears to be grossly similar when compared to the 
prior study. No periostitis seen. Soft tissue calcification 
appears to be venous. Moderate plantar calcaneal spur. 
  
Left foot: 
There has been interval surgery with a partially threaded screw 
traversing the posterior facet of the subtalar joint. An 
additional screw traverses the first metatarsal extending into 
the presumed medial cuneiform and navicular bone into the talus. 
The precise anatomy is not clearly delineated. A third screw 
traverses the calcaneocuboid articulation. There has been prior 
resection at the third fourth and fifth rays, this is unchanged 
in appearance. Severe subluxation of the first interphalangeal 
joint is also unchanged. Diffuse soft tissue swelling is noted. 
No periostitis seen. 

___: Chest x-ray:
Heart size and mediastinum are unchanged. Right PICC line has 
been 
discontinued.Small heterogeneous density projecting over the 
left upper lung  may be artifactual and related to overlapping 
structures.  This could be further evaluated with dedicated AP 
and lateral chest radiographs.  No appreciable pleural effusion 
or pneumothorax is seen.
 
Brief Hospital Course:
Ms. ___ was admitted to the podiatric surgery service follow 
b/l charcot reconstruction foot surgery. Pt was evaluated by 
anesthesia and taken 
to the operating room on ___.  In the operating room, she 
required pressor support due to hypotension; please see the 
operative note for details.  Pt was extubated, taken to the PACU 
until stable, then transferred to the ward for observation. 

Neuro: Pain was initially managed oral oxycodone on a prn basis. 
On ___, nursing noted that the patient had become confused, 
aggitated, and paranoid. Labs, blood cultures, chest x-ray, and 
urine culture were obtained to ensure the patient did not have 
an infection. All of which were negative. When team evaluated 
the patient, she was A&Ox3 and no longer aggitated. The medicine 
team was consulted who evaluated the patient. We concluded that 
this event was likely due to oral narcotic pain medication. 
Oxycodone was discontinued and the patient was placed on 
standing acetaminophen for pain. There were no other 
neurological events for the remaining hospitalization.
CV: Vital signs were routinely monitored. The patient required 
pressor support while in the OR due to low blood pressure. 
Pressors were discontinued in PACU and her blood pressure 
medications were held. Her blood pressures remained stable in 
the 100s-110s for her remaining hospitalizations. She was placed 
on telemetry while hospitalized. On ___, her telemetry was 
alarming due to sinus arrhythmia, PVCs, and irregular heart 
rate. An ECG was preformed which revealed atrial fibullation. 
The medical consult team was following at this time and 
recommended continuing her coumadin and restarting her atenolol 
for rate control. They recommended follow up with her PCP as 
well as cardiologist for further workup.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet and incentive spirometry were encouraged throughout 
hospitalization. 
GI/GU/FEN:  The patient was placed on a diabetic diet which was 
well tolerated. Patient's intake and output were closely 
monitored and found to be adequate. A foly was placed intra-op 
for urine monitoring.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. The patient was placed on 
post-operative ancef while hospitalized. During her neurological 
event on ___, blood cultures, urine analysis, chest x-ray, 
and labs were drawn to rule out infectious cause of delirium. 
All these results are currently negative to date. 
HEME: The patient's blood counts were closely watched for signs 
of bleeding. Her Hct was noted to be trending down initially 
during the post-operative. Her stool was guaiaced and negative. 
Her Hct stabilized on ___ and continued to trend out for her 
remaining hospitializtion.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay. She was also placed on 
her home dose of coumadin on post-operative date 0.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
warfrina, Lasix 20 BID, Lisinopril 5 daily, famotidine 10mg bid, 
trazodone 5mg hs, Atenolol 50 mg qd, Pravastatin 20 mg qd  
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Ascorbic Acid ___ mg PO DAILY 
3. Atenolol 50 mg PO DAILY 
4. Cyanocobalamin 500 mcg PO DAILY 
5. Famotidine 10 mg PO Q12H 
6. Furosemide 40 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Warfarin 10 mg PO 4X/WEEK (___) 
12. Warfarin 7.5 mg PO 3X/WEEK (___) 
13. Pravastatin 20 mg PO QPM 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. B/L Charcot neuropathy
2. New onset of atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service after your surgery both your 
feet. You were given IV antibiotics while here and pain 
medications. You are being discharged home with the following 
instructions: 

ACTIVITY:
There are restrictions on activity. Please remain non weight 
bearing to both your feet until your follow up appointment. You 
should keep this site elevated when ever possible (above the 
level of the heart!) 

No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

Avoid taking a tub bath, swimming, or soaking in a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.
We would also like you to follow up with your primary care 
doctor and cardiologist as an outpatient due to your low blood 
pressure as well as your heart rate.
 
Followup Instructions:
___